Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Penicillins / hydrocodone / Bactrim / pancrelipase 
/ tramadol
 
Attending: ___.
 
Chief Complaint:
abd pain, N/V
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ woman with PMH of L. Breast Ca
s/p lumpectomy + chemoradiation without recurrence, prior
hysterectomy, and HTN, who presents with one day of nausea,
vomiting, and rightsided abdominal pain. 

Her pain began yesterday at approximately 10am, described as a
severe, sharp cramping in the right side with associated
radiation to her flank. The pain comes in waves of ___
severity and last for ~2mins each time. She has also experienced
associated nausea and two episodes of NBNB emesis, which 
prompted
her to present to the ED for further evaluation. 

In the ED, she was hypertensive on arrival but otherwise HD
stable including afebrile. Labs overall unremarkable with mild
non-gap metabolic acidosis, otherwise no leukocytosis, anemia, 
or
LFT derangements. RUQ-US without evidence of gallbladder/biliary
process. CTa/p obtained and notable for loops of dilated small
bowel with a single short transition point causing likely small
bowel obstruction. Patient seen by surgery who felt presentation
was overall consistent with enteritis vs. partial/resolving SBO.
Given patient was unable to tolerate PO, she was admitted to
medicine for further care. 

Upon arrival to the floor, patient interviewed with assistance 
of
___ interpreter. She is overall feeling better than 
yesterday
and has not had any further episodes of vomiting. She

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Breast Ca s/p lumpectomy, chemoradiation, and tamoxifen (in
clinical remission) 
- HTN
- Recurrent UTIs
- ? gastroparesis 
- spinal DJD s/p discectomy with hardware
- s/p hysterectomy
- s/p cesarean section 
- s/p cataract surgery
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
Admission Exam:
___ 1225 Temp: 98.1 BP: 129/73 HR: 52 RR: 18 O2 sat: 99% O2
delivery: RA 
GENERAL: pleasant, obese, ___ woman resting in bed
comfortably. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, mildly distended with hypoactive bowel sounds,
tender to palpitation in epigastrum and RUQ. Soft without
rebounding. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM: 
98.0 133 / 75 57 18 99 RA 
GEN: pleasant elderly female in NAD, sitting up with family at 
bedside
HEENT: MMM
CV: RRR
RESP: CTAB no w.r
ABD: mildly distended/obese, no TTP, NABS, no rebound/guarding
GU: no foley
eXT: warm no edema
NEURO: alert, appropriate, ambulating independently

 
Pertinent Results:
___ 12:50AM BLOOD WBC-9.2 RBC-3.66* Hgb-11.4 Hct-37.1 
MCV-101* MCH-31.1 MCHC-30.7* RDW-15.4 RDWSD-57.2* Plt ___
___ 07:17AM BLOOD WBC-6.4 RBC-3.51* Hgb-10.9* Hct-34.2 
MCV-97 MCH-31.1 MCHC-31.9* RDW-15.6* RDWSD-55.6* Plt ___
___ 12:50AM BLOOD Neuts-67.9 ___ Monos-8.2 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-6.23* AbsLymp-2.06 AbsMono-0.75 
AbsEos-0.07 AbsBaso-0.04
___ 07:17AM BLOOD Glucose-90 UreaN-7 Creat-0.7 Na-145 K-4.0 
Cl-110* HCO3-25 AnGap-10
___ 12:50AM BLOOD ALT-15 AST-32 AlkPhos-72 TotBili-0.6
___ 12:50AM BLOOD Lipase-31
___ 07:17AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.9
___ 12:50AM BLOOD Albumin-4.1
___ 12:50AM BLOOD Lactate-1.8

Blood Cx from ___ NGTD
Urine Cx from ___bd:  
IMPRESSION:  
Loops of dilated, fluid-filled small bowel in the central 
abdomen measuring up  to 3 cm with a single short transition 
point consistent with an adhesion causing likely partial small 
bowel obstruction. 

RUQ u/s:
___ RUQ-US 
Unremarkable abdominal ultrasound.  No evidence of 
cholelithiasis
or cholecystitis. 

EKG with sinus bradycardia

 
Brief Hospital Course:
___ woman with PMH of HTN, Breast CA s/p surgery and 
chemoXRT in remission  who presents with one day of nausea, 
vomiting, and rightsided abdominal pain. RUQ u/s was reassuring 
and CT abdomen raised concern for enteritis vs partial SBO.
Pt was seen by surgery who was reassured by her exam. Pt was 
advanced a liquid diet overnight and had multiple BMs.  On ___, 
pt was denying pain and felt ready to advance a regular diet.  
Pt did well with the regular diet, denied any recurrent of abd 
pain or N/V though she had some epigastric fullness after eating 
that has been present for some years now.  I spoke at length 
with patient/family who report previous similar episodes of abd 
pain that resolves rapidly which has been worked up at ___ with 
a possible diagnosis of gastroparesis.  I explained that this 
episode may have been due to a partial SBO from intra-abdominal 
scaring which may be contributing to these intermittent events.  
 Pt wanted a referral to GI here at ___ and I agreed to help 
coordinate.   I will contact her son on ___ when the 
clinics are open to check in on her symptoms and provide 
appointment information to them.   Pt was discharged home to her 
family on the evening of ___ tolerating a regular diet without 
any abd pain, N/V.   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
5. Naproxen 375 mg PO Q12H:PRN Pain - Moderate 
6. methenamine hippurate 1 gram oral DAILY 
7. Omeprazole 40 mg PO DAILY 
8. TraZODone 75 mg PO QHS 
9. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
10. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY  
2.  Atenolol 50 mg PO DAILY  
3.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H  
4.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
5.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
6.  methenamine hippurate 1 gram oral DAILY  
7.  Omeprazole 40 mg PO DAILY  
8.  Simvastatin 10 mg PO QPM  
9.  TraZODone 75 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis
Abdominal pain
Possible partial small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented with nausea, vomiting, diarrhea and abdominal 
pain.   You underwent a CT abdomen in the ED that showed 
enteritis versus a partial small bowel obstruction.  You were 
seen by surgery and have advanced a regular diet without any 
recurrent abdominal pain or vomiting.  You have been moving your 
bowels and we feel that it is safe for you to return home for 
ongoing recovery. It sounds as if this type of episode has 
occurred multiple times over the past few years and as per your 
request, we have provided a referral to the gastroenterology 
team here at ___.  I will contact your grandson tomorrow with 
the details of that appointment, please bring all of your 
previous testing at ___ for this condition to the appointment.   


Best wishes from your team at ___
 
Followup Instructions:
___